US07259183B2
Preparation of (4-tert-butyl-benzyl)-phenethyl-amine
0.65 ml of 4-tert-butylbenzaldehyde (3.7 mmol) and 0.32 ml of phenethylamine (2.5 mmol) were dissolved in 7.5 ml methanol at rt, and after stirring for 30 min at rt, were refluxed for 2¼ h. After cooling down to rt, 142 mg (3.7 mmol) of sodium borohydride were added and after stirring for 15 min at rt, the reaction mixture was then refluxed for 3.5 h. After cooling down to rt, the reaction mixture was treated with 6 drops 1 N HCl and concentrated in vacuo. The residue was diluted with water/EtOAc. After separation of the organic phase, the aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried with magnesium sulfate, filtered off and concentrated in vacuo. The residue was purified by column chromatography (40 g silica gel; EtOAc/heptane 1:2) to give 609 mg of colorless oil (91%). MS (ISP) 268.3 (M+H)+.

reactant | 4-tert-butylbenzaldehyde | 3.7 mmol, 0.65 ml | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | phenethylamine | 2.5 mmol, 0.32 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | sodium borohydride | 3.7 mmol, 142 mg | [BH4-].[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
catalyst | HCl | 1 N, 6 drops | Cl | ClH
product | (4-tert-butyl-benzyl)-phenethyl-amine | 609 mg, 91% | C(C)(C)(C)C1=CC=C(CNCCC2=CC=CC=C2)C=C1 | C19H25N
